US04985582
3-Cyclohexyl-3-hydroxymethyloxetane (7.0 g) was dissolved in dry dichloromethane (20 ml) and added dropwise to a mixture of oxalyl chloride (1.1 eq, 4 ml) in dry dichloromethane (15 ml). At -70° C. a solution of dimethyl sulphoxide (7.15 ml) in dichloromethane (10 ml) was added. After stirring at -70° C. for 30 minutes triethylamine (29 ml) was added over 30 minutes. The reaction mixture was allowed to warm up to room temperature over a period of 3 hours and then quenched in water. Extraction with dichloromethane, followed by washing with dilute hydrochloric acid, saturated sodium bicarbonate solution and brine and drying over magnesium sulphate gave a solution which was evaporated to give 3-cyclohexyl-3-formyloxetane as a colourless oil.

reactant | 3-Cyclohexyl-3-hydroxymethyloxetane | 7.0 g | C1(CCCCC1)C1(COC1)CO | C10H18O2
reactant | oxalyl chloride | 4 ml, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 7.15 ml | CS(=O)C | C2H6OS
reactant | triethylamine | 29 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-cyclohexyl-3-formyloxetane | C1(CCCCC1)C1(COC1)C=O | C10H16O2
